US08476434B2
To a mixture of 4,4,5,5-tetramethyl-2-(2-(4-nitrophenoxy)phenyl)-1,3,2-dioxaborolane (0.936 g, 2.7 mmol), Pd(dppf)Cl2 (0.10 g, 0.14 mmol) in dioxane and Sodium carbonate (2.0 M in water, 2.7 ml, 5.5 mmol) was added 4-chloro-2-methylthiopyrimidine (0.38 ml, 3.3 mmol). The brown mixture was sealed and heated to 80 deg. C. overnight. In the morning the reaction was partitioned between EtOAc/1N NaOH. The aqueous layer was extracted once with EtOAc. The combined organics were dried over anhyd. Na2SO4, filtered, and concentrated to a brown oil. This material was treated with CH2Cl2 and purified by silica gel chromatography eluting with 0-25% EtOAc/hexane. The product-containing fractions were concentrated to afford 2-(methylthio)-4-(2-(4-nitrophenoxy)phenyl)pyrimidine as a clear oil. MS m/z=340 [M+1]+. Calc'd for C17H13N3O3: 339.37.

reactant | 4,4,5,5-tetramethyl-2-(2-(4-nitrophenoxy)phenyl)-1,3,2-dioxaborolane | 2.7 mmol, 0.936 g | CC1(OB(OC1(C)C)C1=C(C=CC=C1)OC1=CC=C(C=C1)[N+](=O)[O-])C | C18H20BNO5
reactant | Sodium carbonate | 5.5 mmol, 2.0 M, 2.7 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-chloro-2-methylthiopyrimidine | 3.3 mmol, 0.38 ml | ClC1=NC(=NC=C1)SC | C5H5ClN2S
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.14 mmol, 0.10 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(methylthio)-4-(2-(4-nitrophenoxy)phenyl)pyrimidine | CSC1=NC=CC(=N1)C1=C(C=CC=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H13N3O3S
